US06218392B1
4-(3-Chloro-4-methoxybenzyl)amino-6-cyano-1-[4-(2-hydroxyethyl)piperazin-1-yl]phthalazine dihydrochloride
4-(3-Chloro-4-methoxybenzyl)amino-6-cyano-1-[4-(2-hydroxyethyl)piperazin-1-yl]phthalazine (12.0 g, 26.5 mmol) prepared in a similar manner to that of Example 3 was suspended in 600 ml of acetone, followed by the addition of 60 ml of 1N hydrochloric acid. The obtained mixture was stirred at room temperature for 30 minutes to precipitate crystals, which were recovered by filtration and dried at 90° C. for 6 hours to give 13.06 g of the title compound as a pale-yellow powder.

reactant | 4-(3-Chloro-4-methoxybenzyl)amino-6-cyano-1-[4-(2-hydroxyethyl)piperazin-1-yl]phthalazine | 26.5 mmol, 12.0 g | ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C#N)N2CCN(CC2)CCO)C=CC1OC | C23H25ClN6O2
reactant | hydrochloric acid | 1N, 60 ml | Cl | ClH
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | 4-(3-Chloro-4-methoxybenzyl)amino-6-cyano-1-[4-(2-hydroxyethyl)piperazin-1-yl]phthalazine dihydrochloride | 13.06 g | Cl.Cl.ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C#N)N2CCN(CC2)CCO)C=CC1OC | InChI=1S/C23H25ClN6O2.2ClH/c1-32-21-5-3-17(13-20(21)24)15-26-22-19-12-16(14-25)2-4-18(19)23(28-27-22)30-8-6-29(7-9-30)10-11-31;;/h2-5,12-13,31H,6-11,15H2,1H3,(H,26,27);2*1H
